US04154934
To a suspension of 3.9 g. of 1-amino-L-proline and 6.06 g. of N-methylmorpholine in 200 ml. of dimethylacetamide is added 4.98 g. of 3-acetylthiopropionyl chloride. The temperature of the reaction mixture rises to 34° spontaneously. The reaction mixture is then heated at 90° for 5 hours and allowed to cool to room temperature overnight. The crystalline solid, N-methylmorpholine hydrochloride, is removed by filtration and the filtrate concentrated under reduced pressure. The residue is dissolved in a minimum amount of 20% hydrochloric acid and the aqueous solution is then extracted with 3×150 ml. of ethyl acetate. The ethyl acetate extracts are combined, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to yield the desired 1-[[3-(acetylmercapto)-1-oxopropyl]amino]-L-proline.

reactant | 1-amino-L-proline | NN1[C@H](C(=O)O)CCC1 | C5H10N2O2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 3-acetylthiopropionyl chloride | C(C)(=O)CCC(=S)Cl | C5H7ClOS
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-[[3-(acetylmercapto)-1-oxopropyl]amino]-L-proline | C(C)(=O)SCCC(=O)NN1[C@H](C(=O)O)CCC1 | C10H16N2O4S
